US04640913
2-Methyl-α-octadecyl-1,3-dioxolan-2-propanoic acid, ethyl ester
To a solution of about 34.35 g of isopropylcyclohexylamine in about 150 ml of tetrahydrofuran at about -20° C. was added about 156.89 ml of an about 1.55M n-butyllithium, at a rate so that the final temperature reached about 10° C. The solution was then cooled to about -70° C. and about 25 g of ethyl levulinate ethylene ketal was added dropwise. After about 15 minutes, the solution was warmed to about -30° C. and maintained at that temperature while it was added rapidly, dropwise to a stirred solution of about 80.44 g of octadecyl iodide in about 150 ml of dimethyl sulfoxide and about 50 ml of tetrahydrofuran at room temperature. This mixture was stirred overnight, the volatile solvents were removed and water was added. The resulting solid was collected by filtration and extracted with ether giving a solution and a solid. This solution and original filtrate were combined and extracted with ether. This ether extract was dried and the solvent removed giving an oil. This oil was subjected to HPLC, eluting with hexane:ether (about 9:1). The product band was collected and the solvent removed, giving about 30.76 g of the desired title compound as a solid, mp 33°-34° C.

reactant | isopropylcyclohexylamine | about 34.35 g | C(C)(C)NC1CCCCC1 | C9H19N
reactant | n-butyllithium | about 1.55M | C(CCC)[Li]
reactant | ethyl levulinate ethylene ketal | about 25 g | C1COC(CCC(=O)OCC)(C)O1 | C9H16O4
reactant | octadecyl iodide | about 80.44 g | C(CCCCCCCCCCCCCCCCC)I | C18H37I
solvent | tetrahydrofuran | about 150 ml | O1CCCC1 | C4H8O
solvent | dimethyl sulfoxide | about 150 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | about 50 ml | O1CCCC1 | C4H8O
product | 2-Methyl-α-octadecyl-1,3-dioxolan-2-propanoic acid, ethyl ester | about 30.76 g | CC1(OCCO1)CC(C(=O)OCC)CCCCCCCCCCCCCCCCCC | C27H52O4
